US08461164B2
2-(4-Hydroxyphenyl)ethanol (4.0 g, 29 mmol), K2CO3 (8.0 g, 58 mmol) and 2-fluoro-4-trifluoromethylpyridine (3.6 g, 22 mmol) were combined in DMSO (30 mL) and stirred at 25° C. for 20 h. The mixture was poured into H2O and extracted twice with Et2O. The combined Et2O extracts were washed with 1M NaOH, H2O, brine, and concentrated in vacuo to give 2-[4-(4-trifluoromethylpyridin-2-yloxy)-phenyl]-ethanol (4.7 g; 57%), mp 78-79° C.; EIMS m/z 283; 1H NMR (300 MHz, DMSO-d6) δ 8.38 (d, J=5.3 Hz, 1H), 7.0-7.5 (m, 8H), 4.67 (t, J=5.0 Hz, 2H), 2.74 (t, J=5.2 Hz, 2H).

reactant | 2-(4-Hydroxyphenyl)ethanol | 29 mmol, 4.0 g | OC1=CC=C(C=C1)CCO | C8H10O2
reactant | K2CO3 | 58 mmol, 8.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-fluoro-4-trifluoromethylpyridine | 22 mmol, 3.6 g | FC1=NC=CC(=C1)C(F)(F)F | C6H3F4N
reactant | H2O | O | H2O
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
product | 2-[4-(4-trifluoromethylpyridin-2-yloxy)-phenyl]-ethanol | 4.7 g, 57% | FC(C1=CC(=NC=C1)OC1=CC=C(C=C1)CCO)(F)F | C14H12F3NO2
